2156-11-11 17:50:00 Physician Attending Progress Note
Chief Complaint: intracranial hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   46 yo man with HCV/ETOH cirrhosis, admitted [**10-23**] after a fall at
   home.  Had C6/7, T1 transverse process fx, and also right frontal
   hemorrhage.  He had a course complicated by fevers, and was
   treated for a PNA, although cultures were negative.  He was ready for
   rehab this morning, but at 4:00 he got up from bed and fell face flat.
   CT with parafalcine SDH and enlarged right frontal hemorrhage.
   Followup CT 7 hours later showed hemorrhage continuing to enlarge.  INR
   was 3.1 and platelets were 42.  So transferred to ICU for further
   management.
   24 Hour Events:
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   C6/7, T1 transverse process fx
   The patient is divorced from his wife and currently lives with
   his girlfriend.  [**Name (NI) **] has three children who live in [**State 490**].  0.25
   ppd x 20 years tobacco use = 5 pack year history.  Still
   drinking; heavy EtoH in past.  He is not working.
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-11**] 05:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 100 (98 - 100) bpm
   BP: 126/61(77) {126/61(77) - 126/61(77)} mmHg
   RR: 15 (15 - 18) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                  637 mL
   PO:
                  TF:
   IVF:
   Blood products:
   637 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    637 mL
   Respiratory support
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, right periorbital ecchymoses
   Head, Ears, Nose, Throat: blood around lips and nose
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Tone: Not assessed, moves all 4
   extremeties on command
   Labs / Radiology
   107
        [image002.jpg]
   Assessment and Plan
   Intracranial hemorrhage/delirium/encephalopthy:
   Continue frequent neuro checks and CT head q6h.
   Mannitol for increased ICP, aim osm of 315.
   cirrhosis:  will need NGT for lactulose admnistration
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-11**] 04:00 PM
   20 Gauge - [**2156-11-11**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2156-11-12 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Patient received 8 units FFP, 2 units pRBC, and 1 unit platelets
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2156-11-12**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-11-11**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-12**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.4
   HR: 98 (93 - 104) bpm
   BP: 135/70(85) {119/51(68) - 136/70(85)} mmHg
   RR: 17 (13 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 80.8 kg
           Total In:
                                                                  2,288 mL
                                                                  2,063 mL
   PO:
           TF:
   IVF:
                                                                    610 mL
                                                                    775 mL
   Blood products:
                                                                  1,678 mL
                                                                  1,289 mL
   Total out:
                                                                  1,580 mL
                                                                    995 mL
   Urine:
                                                                    980 mL
                                                                    945 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    708 mL
                                                                  1,068 mL
   Respiratory support
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Male sedated; said hello back in response
   Lungs rhonchorous b/l
   Heart: NRRR; no murmurs
   Abdomen: soft, questionable tenderness as patient grunts on abdominal
   exam
   Ext: 1+ edema; warm and well perfused
   Lips erythematous, edematous, and ecchymotic
   Labs / Radiology
   123 K/uL
   8.1 g/dL
   94 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.7 mEq/L
   14 mg/dL
   106 mEq/L
   144 mEq/L
   23.9 %
   7.9 K/uL
        [image002.jpg]
                             [**2156-11-11**]  09:06 PM
                             [**2156-11-12**]  02:41 AM
   WBC
   8.2
   7.9
   Hct
   21.0
   23.9
   Plt
   88
   123
   Cr
   0.6
   Glucose
   94
   Other labs: PT / PTT / INR:19.8/41.2/1.8, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:145 mg/dL,
   Ca++:9.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Head CT- Most recent from [**11-11**]
   Little change in right frontal hemorrhage with surrounding edema, mass
   effect
   on right frontal [**Doctor Last Name **] and 2mm leftward shift of midline structures.
   unchanged
   parafalcine subdural hematoma. blood in the occipital horns is slightly
   more
   conspicuous.
   Assessment and Plan
   ASSESSMENT & PLAN: 46M with ESLD c/b ascites, varices and
   encephalopathy; course complicated by intraparenchymal bleed,
   pneumonia, encephalopathy.
   .
   #. Head Bleed s/p Fall: In setting of liver disease-related
   coagulopathy.  Intraparenchymal hemorrhage worse now following fall
   with evidence of expansion on repeat CT.  Also with new SDH.  Will
   likely need intervention once coagulopathy corrected.  About to get
   another 6 units of FFP (for total of 8); already had 1 PRBC and 2 plts.
   - Head CT repeats per Neuro recs
   - Q1 hour neuro checks
   - cont phenytoin for seizure prophylaxis, f/u phenytoin levels
   - goal INR < 1.5, plt > 80, fibrinogen > 100, and SBP < 160
   - call neurosurg re: plan for him once reverses
   - repeat head CT right now
   - Mannitol with dosing changes based on q6hour [**Doctor Last Name 9662**] and Na.  Goal is
   [**Doctor Last Name 9662**] of 315 and Na 147
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission
   - follow INR, plt, fibrinogen, Ca, Hct and transfuse PRN as above
   - q 6hour Hct, PT, [**Name (NI) 9662**], and Na check.
   - Goal INR <1.5; replete with FFP as needed
   - Goal Hct 25; pRBC PRN
   .
   #. Altered mental status: secondary to intraparenchymal hemorrhage, and
   hepatic encephalopathy. The patient has known decompensated liver
   disease with a previous history of encephalopathy.
   - hemorrhage as above
   - would cont lactulose and rifaximin ([**2-12**] BM per day) with Lactulose
   enema [**Hospital1 **] though pt has no NG tube now; need to place an NG tube or
   Dobhoff
   - continue above management of head bleed
   .
   #. EtOH History: out of window for withdrawal
   .
   #. ESLD: no viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is currently 31.  In records that has varices
   though unclear what or if esophageal.
   - cont lactulose and rifaximin once NG placed or MS improves
   - cont thiamine, folate, MVI once NG placed or MS improves
   - cont furosemide and spironolactone once NG placed or MS improves
   - MRCP to evaluate biliary tree in future
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per surgery are non-operative. Does
   not need cervical collar or log roll precautions.
   - no further management needed
   .
   #. Shallow Toe Ulcer: No signs of current infection. Likely related to
   known PVD.
   - local wound care
   .
   # FEN: IVFs / replete lytes prn / NPO for now
   # PPX: PPI IV BID for now assuming there are varices/gastritis, boots,
   but no heparin, bowel regimen
   # ACCESS: PIV
   # CODE: Full code.
   .
   # CONTACT: [**Name (NI) 83**] formal HCP. Brother has been signing consents. [**Name (NI) 2255**]
   (brother) [**Telephone/Fax (1) 9357**]. Other family numbers: [**Name (NI) 1515**] (mother) [**Telephone/Fax (1) 9642**], and [**Telephone/Fax (1) 9359**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**] [**Telephone/Fax (1) 9341**] has been
   main decision maker. GF was on the way to getting HCP status when
   recent fall happened.
   .
   # DISPO: ICU

2156-11-12 10:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47 yo man with ETOH cirrhosis, s/p fall right frontal hemorrhage.  Has
   received 8U of FFP, 1U of
   PRBCs, with improvement of INR to 1.5.
   24 Hour Events:
 PICC LINE - START [**2156-11-11**] 04:00 PM
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2156-11-12**] 02:00 AM
   Infusions:
   Mannitol - 0.8 grams/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-11-12**] 08:12 AM
   Other medications:
   pentoxyfilline
   protonix
   dilantin
   lactulose
   lidocaine
   folate
   thiamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-12**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 98 (93 - 104) bpm
   BP: 137/62(80) {119/51(68) - 137/70(85)} mmHg
   RR: 17 (13 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 80.8 kg
           Total In:
                                                                  2,288 mL
                                                                  2,251 mL
   PO:
           TF:
   IVF:
                                                                    610 mL
                                                                    963 mL
   Blood products:
                                                                  1,678 mL
                                                                  1,289 mL
   Total out:
                                                                  1,580 mL
                                                                  1,390 mL
   Urine:
                                                                    980 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    708 mL
                                                                    861 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, ecchymoses over face, eyes,
   lips
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, following
   commands, moves all extremities
   Labs / Radiology
   8.1 g/dL
   123 K/uL
   94 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.7 mEq/L
   14 mg/dL
   106 mEq/L
   142 mEq/L
   25.1 %
   7.9 K/uL
        [image002.jpg]
                             [**2156-11-11**]  09:06 PM
                             [**2156-11-12**]  02:41 AM
                             [**2156-11-12**]  07:37 AM
   WBC
   8.2
   7.9
   Hct
   21.0
   23.9
   25.1
   Plt
   88
   123
   Cr
   0.6
   Glucose
   94
   Other labs: PT / PTT / INR:17.9/39.6/1.5, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:145 mg/dL,
   Ca++:9.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 SUBDURAL HEMORRHAGE (SDH):  MS is same as last night, arousable.
   Following commands.
   Mannitol drip:  goal osm of 315.
   Coagulopathy:  continue to check q6h INR, plts>80
   ESLD:  will place a dobhoff to give him lactulose.
   continue lasix/aldactone.
   unclear why he is on unasyn: can d/c after checking hepatology
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-11-11**] 04:00 PM
   PICC Line - [**2156-11-12**] 09:26 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2156-11-13 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2156-11-12**] 09:14 AM
 PICC LINE - START [**2156-11-12**] 09:26 AM
   - NGT placed
   - Pt weaker on R per nursing (not acute change)
   - 3 units FFP x2 for elevated INR
   - q8h INR and lytes check (Na, osm) -- getting mannitol
   - Need to figure out from liver why on Unasyn?
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2156-11-13**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-11-12**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-13**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 95 (94 - 103) bpm
   BP: 150/71(90) {131/61(78) - 155/77(95)} mmHg
   RR: 15 (10 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.3 kg (admission): 80.8 kg
           Total In:
                                                                  4,426 mL
                                                                  1,280 mL
   PO:
           TF:
   IVF:
                                                                  2,860 mL
                                                                    403 mL
   Blood products:
                                                                  1,566 mL
                                                                    877 mL
   Total out:
                                                                  4,375 mL
                                                                  1,260 mL
   Urine:
                                                                  2,625 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     51 mL
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   GEN: NAD, resting in bed. A&O x2 (month and name correct, but thinks on
cruise boat
   CV: RRR, no m/r/g
   PULM: Mild rhonchi but generally mostly clear b/l
   ABD: Soft, nt, nd, +bs
   EXTR: 1+ edema b/l
   NEURO: moves fingers, toes, feet to command. Opens eyes and mouth to
   command.
   Labs / Radiology
   95 K/uL
   8.4 g/dL
   115 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.4 mEq/L
   14 mg/dL
   113 mEq/L
   149 mEq/L
   25.2 %
   6.7 K/uL
        [image002.jpg]
                             [**2156-11-11**]  09:06 PM
                             [**2156-11-12**]  02:41 AM
                             [**2156-11-12**]  07:37 AM
                             [**2156-11-13**]  02:35 AM
   WBC
   8.2
   7.9
   6.7
   Hct
   21.0
   23.9
   25.1
   25.2
   Plt
   88
   123
   95
   Cr
   0.6
   0.7
   Glucose
   94
   115
   Other labs: PT / PTT / INR:19.9/40.9/1.8, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:179 mg/dL,
   Ca++:9.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   CT head [**11-12**] final:
   1. Stable size of right frontal lobe hemorrhage with surrounding area
   of vasogenic edema causing stable mild leftward shift of midline
   structures.  Apparent intraventricular extension of hemorrhage with
   increased amount of layering hemorrhage within the occipital horns
   bilaterally.
   2. Slight increase in size of temporal horns which may represent early
   signs of hydrocephalus. Close follow up is recommended.
   3. Stable right parafalcine subdural hematoma. No new areas of
   parenchymal hemorrhage.
   Assessment and Plan
 SUBDURAL HEMORRHAGE (SDH)
   ASSESSMENT & PLAN: 46M with ESLD c/b ascites, varices and
   encephalopathy; course complicated by intraparenchymal bleed,
   pneumonia, encephalopathy.
   .
   #. Head Bleed s/p Fall: In setting of liver disease-related
   coagulopathy.  Intraparenchymal hemorrhage worse now following fall
   with evidence of expansion on repeat CT.  Also with new SDH.  Will
   likely need intervention once coagulopathy corrected.  Has received
   already multiple units of FFP, PRBC and plts.
   - Head CT repeats per Neuro recs
 one today and one tomorrow; f/u
   reads
   - Q1 hour neuro checks  continue
   - cont phenytoin for seizure prophylaxis, f/u phenytoin levels and
   adjust for albumin
   - goal INR < 1.5, plt > 80, fibrinogen > 100, and SBP < 160; check q6h
   coags, fibrinogen, and CBC to ensure meeting this goal
   - f/u neurosurgery recommendations
   - Mannitol with dosing changes based on q6hour Posm and Na.  Goal is
   Posm of 315 and Na 147.
   - Check Na in 3 hours, and then again at the 6 hour intervals with
   Posm, coags, fibrinogen, and CBC before each potential mannitol dose
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission
   - follow INR, plt, fibrinogen, Ca, Hct and transfuse PRN as above
   - q6hour Hct, PT, fibrinogen checks.
   - Goal fibrinogen >100; replete with cryoprecipitate as needed
   - Goal INR <1.5; replete with FFP as needed
   - Goal Hct 25; replete with pRBC as needed
   .
   #. Altered mental status: secondary to intraparenchymal hemorrhage, and
   hepatic encephalopathy. The patient has known decompensated liver
   disease with a previous history of encephalopathy.
   - intracranial hemorrhage management as above
   - continue lactulose and rifaximin ([**2-12**] BM per day)
   .
   #. EtOH History: out of window for withdrawal
   .
   #. ESLD: no viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is currently 31.  In records that has varices
   though unclear what or if esophageal.
   - cont lactulose and rifaximin
   - cont thiamine, folate, MVI
   - d/c furosemide and spironolactone
   - MRCP to evaluate biliary tree in future
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per surgery are non-operative. Does
   not need cervical collar or log roll precautions.
   - no further management needed
   .
   #. Shallow Toe Ulcer: No signs of current infection. Likely related to
   known PVD.
   - local wound care
   .
   # FEN: No IVF
s for now / replete lytes prn / NG tube in place, can
   start tube feeds (do not do TPN given ESLD)
   # PPX: PPI IV BID for now assuming there are varices/gastritis, boots,
   but no heparin, bowel regimen
   # ACCESS: PIV
   # CODE: Full code.
   .
   # CONTACT: [**Name (NI) 83**] formal HCP. Brother has been signing consents. [**Name (NI) 2255**]
   (brother) [**Telephone/Fax (1) 9357**]. Other family numbers: [**Name (NI) 1515**] (mother) [**Telephone/Fax (1) 9642**], and [**Telephone/Fax (1) 9359**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**] [**Telephone/Fax (1) 9341**] has been
   main decision maker. GF was on the way to getting HCP status when
   recent fall happened.
   .
   # DISPO: ICU
   ICU Care
   Lines:
   20 Gauge - [**2156-11-11**] 04:00 PM
   PICC Line - [**2156-11-12**] 09:26 AM

2156-11-13 10:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   46 yr old ESLD, ascites, varices and enceph
   Admitted after fall - ICH complicated by midline shift
   24 Hour Events:
 PICC LINE - START [**2156-11-12**] 09:26 AM
   NG tube placed
   Weaker on right [**Name8 (MD) 24**] RN
   3 units FFP for elev INR
   Mannitol
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2156-11-13**] 09:04 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-11-12**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-13**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.5
   HR: 94 (94 - 103) bpm
   BP: 145/79(94) {131/61(78) - 155/79(95)} mmHg
   RR: 20 (10 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.3 kg (admission): 80.8 kg
           Total In:
                                                                  4,426 mL
                                                                  1,898 mL
   PO:
           TF:
   IVF:
                                                                  2,860 mL
                                                                    633 mL
   Blood products:
                                                                  1,566 mL
                                                                  1,175 mL
   Total out:
                                                                  4,375 mL
                                                                  2,450 mL
   Urine:
                                                                  2,625 mL
                                                                  1,850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     51 mL
                                                                   -552 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): person/place, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   95 K/uL
   115 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.4 mEq/L
   14 mg/dL
   113 mEq/L
   154 mEq/L
   20.3 %
   6.7 K/uL
        [image002.jpg]
                             [**2156-11-11**]  09:06 PM
                             [**2156-11-12**]  02:41 AM
                             [**2156-11-12**]  07:37 AM
                             [**2156-11-13**]  02:35 AM
                             [**2156-11-13**]  09:20 AM
   WBC
   8.2
   7.9
   6.7
   Hct
   21.0
   23.9
   25.1
   25.2
   20.3
   Plt
   88
   123
   95
   Cr
   0.6
   0.7
   Glucose
   94
   115
   Other labs: PT / PTT / INR:16.5/34.8/1.5, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:179 mg/dL,
   Ca++:9.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: Na trending up
   Osm 317, 9am pending
   Imaging: CT [**11-13**] reviewed - stable size of hemorrhage with midline
   shift, increased bleeding in occip horns, other details in report
   Assessment and Plan
 SUBDURAL HEMORRHAGE (SDH)
   Mannitol drip:  goal osm of 315. Watch Na
   Coagulopathy:  continue to check q6h INR, plts>80
   ESLD:  will place a dobhoff to give him lactulose.
   continue lasix/aldactone.
   unclear why he is on unasyn: can d/c after checking hepatology
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-11-11**] 04:00 PM
   PICC Line - [**2156-11-12**] 09:26 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2156-11-14 08:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2156-11-13**] 09:40 PM
   - increased RR, decreased sat's to low 90s and high 80s, up to 5L on
   NC, then to 100% on NRB, RR to 30s, HTN to 170s and HR to 120s,
   increased work of breathing, temp to 100.6
   - tried 100 lasix, 200 spironolactone, albuterol, ipratropium,
   benadryl, morphine, nitro gtt, cxr
   - ddx: fluid overload, allergic reaction to blood products, TRALI, PE,
   aspiration PNA
   - intubated at ~10pm (brother notified)
   - [**Name2 (NI) **] placed
   - given multiple plat's, FFP, blood throughout day, with q6h CBC, coag,
   fibrinogen checks
   - given mannitol based on osm and Na checks q6h
   CT head:
   1. Stable appearance of right frontal intracranial hemorrhage with
   intraventricular extension and right parafalcine subdural hematoma and
   left and extra-axial CSF attenuating collection. No evidence of
   herniation. No hydrocephalus.
   2. New air-fluid level in the right maxillary sinus and mucosal
   thickening in the right ethmoid sinus air cells. Clinically correlate.
   Stable left mastoid air cell partial opacification.
   Febrile to 101.3 this morning.
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2156-11-14**] 12:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2156-11-13**] 08:45 PM
   Fentanyl - [**2156-11-13**] 09:15 PM
   Lidocaine - [**2156-11-13**] 09:15 PM
   Furosemide (Lasix) - [**2156-11-14**] 06:29 AM
   (Had been on propofol; now on fentanyl and midazolam)
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-14**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 93 (87 - 126) bpm
   BP: 134/73(87) {134/63(83) - 180/109(125)} mmHg
   RR: 18 (18 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.3 kg (admission): 80.8 kg
           Total In:
                                                                  3,856 mL
                                                                  1,114 mL
   PO:
           TF:
   IVF:
                                                                  1,043 mL
                                                                    213 mL
   Blood products:
                                                                  2,423 mL
                                                                    781 mL
   Total out:
                                                                  4,565 mL
                                                                  1,410 mL
   Urine:
                                                                  3,965 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -709 mL
                                                                   -296 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 18
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: 7.41/46/94.[**Numeric Identifier 433**]/26/3
   Ve: 12.9 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   76 K/uL
   9.5 g/dL
   140 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.4 mEq/L
   20 mg/dL
   114 mEq/L
   152 mEq/L
   28.0 %
   6.4 K/uL
        [image002.jpg]
                             [**2156-11-12**]  02:41 AM
                             [**2156-11-12**]  07:37 AM
                             [**2156-11-13**]  02:35 AM
                             [**2156-11-13**]  09:20 AM
                             [**2156-11-13**]  03:37 PM
                             [**2156-11-13**]  05:10 PM
                             [**2156-11-13**]  08:54 PM
                             [**2156-11-13**]  10:46 PM
                             [**2156-11-14**]  12:43 AM
                             [**2156-11-14**]  12:51 AM
   WBC
   7.9
   6.7
   5.3
   5.6
   7.0
   6.4
   Hct
   23.9
   25.1
   25.2
   20.3
   25.2
   28.6
   32.3
   28.0
   Plt
   123
   95
   82
   80
   102
   76
   Cr
   0.6
   0.7
   0.9
   1.0
   TCO2
   29
   30
   Glucose
   94
   115
   230
   140
   Other labs: PT / PTT / INR:21.6/40.5/2.0, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:141 mg/dL,
   Albumin:3.7 g/dL, Ca++:9.5 mg/dL, Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   ASSESSMENT & PLAN: 46M with ESLD c/b ascites, varices and
   encephalopathy; course complicated by intraparenchymal bleed,
   pneumonia, encephalopathy.
   .
   #. Head Bleed s/p Fall: In setting of liver disease-related
   coagulopathy.  Intraparenchymal hemorrhage worse now following fall
   with evidence of expansion on repeat CT.  Also with new SDH.  Will
   likely need intervention once coagulopathy corrected.  Has received
   already multiple units of FFP, PRBC and plts.
   - Head CT repeats per Neuro recs
 one today and one tomorrow; f/u
   reads
   - Q2 hour neuro checks  continue
   - cont phenytoin for seizure prophylaxis, f/u phenytoin levels and
   adjust for albumin
   - goal INR < 2.0, plt > 80, fibrinogen > 100, and SBP < 160; check q6h
   coags, fibrinogen, and CBC to ensure meeting this goal
   - f/u neurosurgery recommendations
   - Mannitol with dosing changes based on q6hour Posm and Na.  Goal is
   Posm of 315 and Na 150.
   - Check Na in 3 hours, and then again at the 6 hour intervals with
   Posm, coags, fibrinogen, and CBC before each potential mannitol dose
   .
   # Respiratory distress: Intubated on [**11-13**] due to respiratory fatigue,
   tachypnea, SpO2 in high 80s on 100% face mask. Believed due to volume
   overload/CHF versus TRALI versus aspiration.
   - Diuresis with lasix; goal:
   - CXR tomorrow
   - Check ABG now
   - 40 IV lasix now (diuresing well right now); goal negative 1-2L today
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission
   - follow INR, plt, fibrinogen, Ca, Hct and transfuse PRN as above
   - q6hour Hct, PT, fibrinogen checks.
   - Goal fibrinogen >100; replete with cryoprecipitate as needed
   - Goal INR <1.5; replete with FFP as needed
   - Goal Hct 25; replete with pRBC as needed
   .
   #. Altered mental status: secondary to intraparenchymal hemorrhage, and
   hepatic encephalopathy. The patient has known decompensated liver
   disease with a previous history of encephalopathy.
   - intracranial hemorrhage management as above
   - continue lactulose and rifaximin ([**2-12**] BM per day)
   - hold sedation as tolerated while intubated
   .
   #. EtOH History: out of window for withdrawal
   .
   #. ESLD: no viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is currently 31.  In records that has varices
   though unclear what or if esophageal.
   - cont lactulose and rifaximin
   - cont thiamine, folate, MVI
   - d/c furosemide and spironolactone
   - MRCP to evaluate biliary tree in future
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per surgery are non-operative. Does
   not need cervical collar or log roll precautions.
   - no further management needed
   .
   #. Shallow Toe Ulcer: No signs of current infection. Likely related to
   known PVD.
   - local wound care
   .
   # FEN: No IVF
s for now / replete lytes prn / NG tube in place, (hold
   tube feeds d/t concern for aspiration)
    # PPX: PPI IV BID for now assuming there are varices/gastritis, boots,
   but no heparin, bowel regimen
   # ACCESS: PIV
   # CODE: Full code.
   .
   # CONTACT: [**Name (NI) 83**] formal HCP. Brother has been signing consents. [**Name (NI) 2255**]
   (brother) [**Telephone/Fax (1) 9357**]. Other family numbers: [**Name (NI) 1515**] (mother) [**Telephone/Fax (1) 9642**], and [**Telephone/Fax (1) 9359**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**] [**Telephone/Fax (1) 9341**] has been
   main decision maker. GF was on the way to getting HCP status when
   recent fall happened.  Brother aware of intubation on [**11-13**].
   .
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-11-11**] 04:00 PM
   PICC Line - [**2156-11-12**] 09:26 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-11-14 09:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2156-11-13**] 09:40 PM
   CT head - stable bleed, new sinus opacities
   Yesterday, given ++ blood products (fibrinogen, FFP)
   ~ 8pm wheezy, desat to high 80s, NRB tried but tachypneic to 30s,
   labored, T 100.6 (Tm 101.3)
   Concern for acute CHF, no improvement with nebs, lasix, spironolactone,
   intubated
                   Patient unable to provide history: Sedated
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2156-11-14**] 08:32 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2156-11-13**] 08:45 PM
   Lidocaine - [**2156-11-13**] 09:15 PM
   Furosemide (Lasix) - [**2156-11-14**] 06:29 AM
   Fentanyl - [**2156-11-14**] 08:44 AM
   Other medications:
   reviewed - manitol 25 q6h, phenytoin, rifax, nitro drip
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-14**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 93 (87 - 126) bpm
   BP: 134/73(87) {134/63(83) - 180/109(125)} mmHg
   RR: 19 (18 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.3 kg (admission): 80.8 kg
           Total In:
                                                                  3,856 mL
                                                                  1,520 mL
   PO:
           TF:
   IVF:
                                                                  1,043 mL
                                                                    319 mL
   Blood products:
                                                                  2,423 mL
                                                                    781 mL
   Total out:
                                                                  4,565 mL
                                                                  1,910 mL
   Urine:
                                                                  3,965 mL
                                                                  1,760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -709 mL
                                                                   -389 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 18
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: 7.41/46/94.[**Numeric Identifier 433**]/26/3
   Ve: 12.9 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : scant ant/lat, No(t)
   Wheezes : )
   Abdominal: Soft, Non-tender, No(t) Distended
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   76 K/uL
   140 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.4 mEq/L
   20 mg/dL
   114 mEq/L
   152 mEq/L
   28.0 %
   6.4 K/uL
        [image002.jpg]
                             [**2156-11-12**]  02:41 AM
                             [**2156-11-12**]  07:37 AM
                             [**2156-11-13**]  02:35 AM
                             [**2156-11-13**]  09:20 AM
                             [**2156-11-13**]  03:37 PM
                             [**2156-11-13**]  05:10 PM
                             [**2156-11-13**]  08:54 PM
                             [**2156-11-13**]  10:46 PM
                             [**2156-11-14**]  12:43 AM
                             [**2156-11-14**]  12:51 AM
   WBC
   7.9
   6.7
   5.3
   5.6
   7.0
   6.4
   Hct
   23.9
   25.1
   25.2
   20.3
   25.2
   28.6
   32.3
   28.0
   Plt
   123
   95
   82
   80
   102
   76
   99
   Cr
   0.6
   0.7
   0.9
   1.0
   TCO2
   29
   30
   Glucose
   94
   115
   230
   140
   Other labs: PT / PTT / INR:21.6/40.5/2.0, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:141 mg/dL,
   Albumin:3.7 g/dL, Ca++:9.5 mg/dL, Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Fluid analysis / Other labs: INR up, platelets down
   Imaging: CXRs reviewed. ETT in good position. IS edema (less likely
   DAH) +/- consolidation right hilum on pre-intub xray
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   Acute respiratory failure  - suspect CHF though differential [**Last Name (LF) 9548**], [**First Name3 (LF) **]
   have aspirated leading to flash pulm edema, consider other etiologies,
   at risk for DAH but less likely
   Mannitol drip:  goal osm of 315, Na 147. Check q6h, q2h neurochecks per
   neurosurg
   Coagulopathy:  continue to check q6h INR, plts>80 and INR<2.0
   ESLD:  likely d/t EtOH. c/w lactulose and rifaximin. Unlikely to be
   transplant candidate at any point. Poor prognosis d/t cirrhosis alone
   Altered MS: arousable, minimize sedation
   Transverse process fracture: non-operative
    Prognosis guarded
   ICU Care
   Nutrition: none
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-11-11**] 04:00 PM
   PICC Line - [**2156-11-12**] 09:26 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2156-11-15 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2156-11-14**] 04:39 PM
 STOOL CULTURE - At [**2156-11-14**] 05:24 PM
 FEVER - 102.6
F - [**2156-11-14**] 04:00 PM
   - started Vanc
   - ?aspiration PNA from nurse [**First Name (Titles) 9723**] [**Last Name (Titles) **] looks like meds.
   - lactate increasing likely from infection
   - Posm of 332 and Na of 154- giving free water bolus and will recheck;
   also has metabolic alkalosis so likely being overdiuresed.  Will hold
   off after morning dose.
   - stopped mannitol and started fluids because Osm and Na consistently
   high
   - NG tube pulled b/c wasn't working.  INR 2.2, gave 2 FFP.
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Vancomycin - [**2156-11-14**] 08:40 PM
   Ampicillin/Sulbactam (Unasyn) - [**2156-11-15**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2156-11-15**] 04:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2156-11-14**] 09:28 AM
   Midazolam (Versed) - [**2156-11-15**] 05:25 AM
   Fentanyl - [**2156-11-15**] 05:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-15**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.6
C (101.4
   HR: 86 (85 - 93) bpm
   BP: 152/61(86) {128/52(79) - 165/76(103)} mmHg
   RR: 18 (18 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.3 kg (admission): 80.8 kg
           Total In:
                                                                  2,799 mL
                                                                  1,441 mL
   PO:
           TF:
   IVF:
                                                                  1,418 mL
                                                                    875 mL
   Blood products:
                                                                    781 mL
                                                                    566 mL
   Total out:
                                                                  3,990 mL
                                                                    690 mL
   Urine:
                                                                  3,840 mL
                                                                    490 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                 -1,191 mL
                                                                    751 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.50/40/106/27/7
   Ve: 9.9 L/min
   PaO2 / FiO2: 265
   Physical Examination
   GEN: Sedated, moves right hand minimally on command.
   CV; RRR, no m/r/g
   PULM: mild rhonchi b/l
   ABD: +BS, soft, nt, minimally distended
   EXTR:  2+ pitting edema b/l
   SKIN: bruising and dried blood at nose, face, eyes
   Labs / Radiology
   62 K/uL
   8.6 g/dL
   117 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.3 mEq/L
   20 mg/dL
   114 mEq/L
   151 mEq/L
   25.2 %
   4.3 K/uL
        [image002.jpg]
                             [**2156-11-13**]  10:46 PM
                             [**2156-11-14**]  12:43 AM
                             [**2156-11-14**]  12:51 AM
                             [**2156-11-14**]  08:29 AM
                             [**2156-11-14**]  09:35 AM
                             [**2156-11-14**]  06:22 PM
                             [**2156-11-14**]  08:34 PM
                             [**2156-11-14**]  08:53 PM
                             [**2156-11-15**]  02:08 AM
                             [**2156-11-15**]  02:40 AM
   WBC
   6.4
   5.5
   5.5
   4.3
   Hct
   28.0
   28.9
   27.6
   25.2
   Plt
   76
   99
   82
   62
   Cr
   1.0
   0.8
   0.6
   0.6
   TCO2
   29
   30
   29
   30
   31
   32
   Glucose
   140
   154
   118
   117
   Other labs: PT / PTT / INR:22.3/40.5/2.1, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:178 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:3.7 g/dL, Ca++:9.4 mg/dL, Mg++:2.0
   mg/dL, PO4:2.3 mg/dL
   Imaging: [**11-15**] CXR (my read) improved diffuse bilateral opacity
   Microbiology: [**11-14**] stool pnd
   [**11-14**] bcx pending
   [**2156-11-14**] 4:26 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2156-11-14**]):
         [**10-3**] PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   BUDDING YEAST.
   [**11-14**] ucx
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   ASSESSMENT & PLAN: 46M with ESLD c/b ascites, varices and
   encephalopathy; course complicated by intraparenchymal bleed,
   pneumonia, encephalopathy.
   .
   #. Head Bleed s/p Fall: In setting of liver disease-related
   coagulopathy.  Intraparenchymal hemorrhage worse now following fall
   with evidence of expansion on repeat CT.  Also with new SDH.  Will
   likely need intervention once coagulopathy corrected.  Has received
   already multiple units of FFP, PRBC and plts.
   - Head CT repeats per Neuro recs
 one today and one tomorrow; f/u
   final reads
   - Q2 hour neuro checks continue (change from q1h to q2h)
   - cont phenytoin for seizure prophylaxis, dosing was corrected
   yesterday for albumin and it was correct phenytoin dose
   - goal INR < 2.0, plt > 80, fibrinogen > 100, and SBP < 160; check q6h
   coags, fibrinogen, and CBC to ensure meeting this goal
 confirm these
   goals with neurosurgery.
   - f/u neurosurgery recommendations on management and discuss endpoint,
   need for qd CT head
   - Mannitol with dosing changes based on q6hour Posm and Na.  Goal is
   Posm of 315 and Na 150
 confirm this with neurosurgery.
   .
   # Respiratory distress: Intubated on [**11-13**] due to respiratory fatigue,
   tachypnea, SpO2 in high 80s on 100% face mask. Believed due to volume
   overload/CHF versus TRALI versus aspiration. Diuresing well now.
   Tolerating vent well now, with good ABG
   - Diuresis with lasix (40mg IV now); goal: negative 1-2 L today
   - Check ABG now
   # Fevers:  Most likely aspiration, given aspiration and subsequent
   development of fevers.  Given one dose Unasyn, then Vancomycin x1
   dose.  However, also r/o SBP with US looking for ascites, per Liver
   recs.
   - Vanc/Zosyn to cover for aspiration pneumonia, given patient
   aspiration and subsequent fevers
   - Abdominal US to r/o ascites, per Liver
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission
   - q6hour Hct, coag, fibrinogen checks.
   - Goal fibrinogen >100; replete with cryoprecipitate as needed
   - Goal INR <2; replete with FFP as needed
   - Goal platelets >80; replete with platelets as needed
   - Goal Hct 25; replete with pRBC as needed
   .
   #. Altered mental status: secondary to intraparenchymal hemorrhage, and
   hepatic encephalopathy. The patient has known decompensated liver
   disease with a previous history of encephalopathy.
   - intracranial hemorrhage management as above
   - continue lactulose and rifaximin ([**2-12**] BM per day)
   - hold sedation as tolerated while intubated
   .
   #. EtOH History: out of window for withdrawal
   .
   #. ESLD: no viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is currently 31.  In records that has varices
   though unclear what or if esophageal.
   - cont lactulose and rifaximin
   - cont thiamine, folate, MVI
   - holding standing furosemide and spironolactone
   - MRCP to evaluate biliary tree in future
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per surgery are non-operative. Does
   not need cervical collar or log roll precautions.
   - no further management needed
   .
   #. Shallow Toe Ulcer: No signs of current infection. Likely related to
   known PVD.
   - local wound care
   .
   # FEN: No IVF
s for now (as diuresing today) / replete lytes prn / NGT
   tube in place, (hold tube feeds d/t concern for aspiration)
    # PPX: PPI IV BID for now assuming there are varices/gastritis, boots,
   but no heparin d/t thrombocytopenia, bowel regimen
   # ACCESS: PIV
   # CODE: Full code.
   .
   # CONTACT: [**Name (NI) 83**] formal HCP. Brother has been signing consents. [**Name (NI) 2255**]
   (brother) [**Telephone/Fax (1) 9357**]. Other family numbers: [**Name (NI) 1515**] (mother) [**Telephone/Fax (1) 9642**], and [**Telephone/Fax (1) 9359**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**] [**Telephone/Fax (1) 9341**] has been
   main decision maker. GF was on the way to getting HCP status when
   recent fall happened.  Brother aware of intubation on [**11-13**].
   .
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-12**] 09:26 AM
   Arterial Line - [**2156-11-14**] 12:00 AM
   18 Gauge - [**2156-11-15**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-11-15 09:15:00 Physician Attending Progress Note
Chief Complaint: Intracranial hemorrhage, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Mannitol D/C'd
   Abx broadened to vanc/zosyn overnight for fever spike
   24 Hour Events:
 PAN CULTURE - At [**2156-11-14**] 04:39 PM
 STOOL CULTURE - At [**2156-11-14**] 05:24 PM
 FEVER - 102.6
F - [**2156-11-14**] 04:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Vancomycin - [**2156-11-14**] 08:40 PM
   Ampicillin/Sulbactam (Unasyn) - [**2156-11-15**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2156-11-15**] 04:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2156-11-14**] 09:28 AM
   Midazolam (Versed) - [**2156-11-15**] 05:25 AM
   Fentanyl - [**2156-11-15**] 05:25 AM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-11-15**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.3
C (101
   HR: 92 (85 - 92) bpm
   BP: 154/67(95) {128/52(79) - 165/76(103)} mmHg
   RR: 17 (17 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.3 kg (admission): 80.8 kg
           Total In:
                                                                  2,799 mL
                                                                  1,573 mL
   PO:
           TF:
   IVF:
                                                                  1,418 mL
                                                                    887 mL
   Blood products:
                                                                    781 mL
                                                                    686 mL
   Total out:
                                                                  3,990 mL
                                                                    790 mL
   Urine:
                                                                  3,840 mL
                                                                    590 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                 -1,191 mL
                                                                    783 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.50/40/106/27/7
   Ve: 11.1 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Left lower extremity edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   62 K/uL
   117 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.3 mEq/L
   20 mg/dL
   114 mEq/L
   151 mEq/L
   25.2 %
   4.3 K/uL
        [image002.jpg]
                             [**2156-11-13**]  10:46 PM
                             [**2156-11-14**]  12:43 AM
                             [**2156-11-14**]  12:51 AM
                             [**2156-11-14**]  08:29 AM
                             [**2156-11-14**]  09:35 AM
                             [**2156-11-14**]  06:22 PM
                             [**2156-11-14**]  08:34 PM
                             [**2156-11-14**]  08:53 PM
                             [**2156-11-15**]  02:08 AM
                             [**2156-11-15**]  02:40 AM
   WBC
   6.4
   5.5
   5.5
   4.3
   Hct
   28.0
   28.9
   27.6
   25.2
   Plt
   76
   99
   82
   62
   Cr
   1.0
   0.8
   0.6
   0.6
   TCO2
   29
   30
   29
   30
   31
   32
   Glucose
   140
   154
   118
   117
   Other labs: PT / PTT / INR:22.3/40.5/2.1, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:178 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:3.7 g/dL, Ca++:9.4 mg/dL, Mg++:2.0
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   47 yo man with cirrhosis in MICU with intracranial hemorrhage.
   Acute respiratory failure  - Cont vanc/zosyn for aspiration pna
   Intracranial hemmorhage: Neurosurg following.  Neuro exam stable.
   Continue mannitol prn to keep osms up to 315-320.
   Coagulopathy:  He has been monitored for 4 days with transfusion of
   factors to keep INR down and platelets up.  We will now hold
   transfusion and recheck a head CT.
   ESLD:  lactulose plus rifaxamin
   Transverse process fracture: non-operative
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-12**] 09:26 AM
   Arterial Line - [**2156-11-14**] 12:00 AM
   18 Gauge - [**2156-11-15**] 12:00 AM
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2156-11-16 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2156-11-15**] 09:32 PM
 FEVER - 102.9
F - [**2156-11-15**] 08:00 PM
   - TPN given
   - NGT re-placed
   - On Vanc/Zosyn
   - Checked coags, lytes but decided to hold off on mannitol, per
   Neurosurg to let him ride and see how he did.  Lytes were ok without
   mannitol.
   - Got 1 unit FFP
   - Should be on Lactulose, refaximin (just confirm)
   - Ordered for US for ascites, to r/o SBP per hepatology - read not up
   yet
   - T 102.9, pan cultured.
   - R toe red, warm, had minimal pus so swabbed and culture sent
   - Sugars high so started on low SSI
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2156-11-15**] 12:00 AM
   Vancomycin - [**2156-11-15**] 08:08 PM
   Piperacillin/Tazobactam (Zosyn) - [**2156-11-16**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-11-15**] 08:00 PM
   Midazolam (Versed) - [**2156-11-16**] 03:30 AM
   Fentanyl - [**2156-11-16**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-16**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 38.4
C (101.1
   HR: 95 (85 - 98) bpm
   BP: 130/61(83) {125/56(77) - 168/76(105)} mmHg
   RR: 16 (15 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.9 kg (admission): 80.8 kg
   Height: 72 Inch
           Total In:
                                                                  3,498 mL
                                                                    855 mL
   PO:
           TF:
   IVF:
                                                                  1,447 mL
                                                                    223 mL
   Blood products:
                                                                  1,615 mL
                                                                    146 mL
   Total out:
                                                                  1,676 mL
                                                                    455 mL
   Urine:
                                                                  1,176 mL
                                                                    355 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  1,822 mL
                                                                    401 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 47.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.47/43/99.[**Numeric Identifier 433**]/29/6
   Ve: 9.7 L/min
   PaO2 / FiO2: 248
   Physical Examination
   GEN: nad, sedated, moves legs minimally spontaneously
   CV: RRR, no m/r/g
   PULM: mild rhonchi b/l
   ABD: soft, nt, nd, +bs
   EXTR: no edema
   SKIN: tremendous bruising of face, periorbital; jaundice
   Labs / Radiology
   53 K/uL
   8.1 g/dL
   156 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.9 mEq/L
   25 mg/dL
   119 mEq/L
   154 mEq/L
   24.8 %
   3.9 K/uL
        [image002.jpg]
                             [**2156-11-14**]  08:34 PM
                             [**2156-11-14**]  08:53 PM
                             [**2156-11-15**]  02:08 AM
                             [**2156-11-15**]  02:40 AM
                             [**2156-11-15**]  10:45 AM
                             [**2156-11-15**]  11:09 AM
                             [**2156-11-15**]  04:57 PM
                             [**2156-11-15**]  05:35 PM
                             [**2156-11-16**]  02:50 AM
                             [**2156-11-16**]  02:59 AM
   WBC
   5.5
   4.3
   4.8
   3.9
   Hct
   27.6
   25.2
   24.6
   24.8
   Plt
   82
   62
   80
   79
   53
   Cr
   0.6
   0.6
   0.8
   0.9
   TCO2
   31
   32
   30
   32
   32
   Glucose
   118
   117
   108
   159
   156
   Other labs: PT / PTT / INR:21.2/41.4/2.0, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:103 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:3.7 g/dL, Ca++:9.6 mg/dL, Mg++:2.0
   mg/dL, PO4:3.5 mg/dL
   [**11-14**] sputum:
RESPIRATORY CULTURE (Preliminary):
      Commensal Respiratory Flora Absent.
      YEAST.    SPARSE GROWTH.
      GRAM NEGATIVE ROD(S).    RARE GROWTH.
   [**11-15**] sputum:
GRAM STAIN (Final [**2156-11-16**]):
      >25 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):
   CXR: grossly unchanged.
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   ASSESSMENT & PLAN: 46M with ESLD c/b ascites, varices and
   encephalopathy; course complicated by intraparenchymal bleed,
   pneumonia, encephalopathy.
   .
   #. Head Bleed s/p Fall: In setting of liver disease-related
   coagulopathy.  Intraparenchymal hemorrhage worse now following fall
   with evidence of expansion on repeat CT.  Also with new SDH.  Will
   likely need intervention once coagulopathy corrected.  Has received
   already multiple units of FFP, PRBC and plts.
   - f/u head CT ordered this morning by neurosurgery
   - Q2 hour neuro checks continue
   - cont phenytoin for seizure prophylaxis, order level for tomorrow and
   then correct it for albumin level
   - Goals for INR, fibrinogen, Hct, plt, see N/S note and hepatology
   note; goal
 keep Hct >25, plt >80, INR >2.0, fibrinogen > 100, and SBP
   < 160; no longer need to check q6h labs however, given stability, and
   fall was days ago now
   - f/u neurosurgery recommendations on management and goals
   - hold mannitol; hold Posm and Na checks
   .
   # Respiratory distress: Intubated on [**11-13**] due to respiratory fatigue,
   tachypnea, SpO2 in high 80s on 100% face mask. Believed due to volume
   overload/CHF versus TRALI versus aspiration. Tolerating vent well now,
   with solid ABG
   - Diuresis with lasix (80mg IV now) and spironolactone (200mg PO now);
   goal: negative -2 L today
   - Check ABG now
   - Wean PEEP from 10 to 8 as tolerated
   # Fevers:  Most likely aspiration, given aspiration and subsequent
   development of fevers.  Given one dose Unasyn, then Vancomycin x1
   dose.  However, also r/o SBP with US looking for ascites, per Liver
   recs.
   - Vanc/Zosyn to cover for aspiration pneumonia, given patient
   aspiration and subsequent fevers
   - Abdominal US to r/o ascites, per Liver, f/u
   - f/u hepatology recs
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission
   - hold q6hour Hct, coag, fibrinogen checks, depending on CT head read,
   might increase or decrease frequency of lab checks
   - Goal fibrinogen >100; replete with cryoprecipitate as needed
   - Goal INR <2; replete with FFP as needed
   - Goal platelets >80; replete with platelets as needed
   - Goal Hct 25; replete with pRBC as needed
   .
   #. Altered mental status: secondary to intraparenchymal hemorrhage, and
   hepatic encephalopathy. The patient has known decompensated liver
   disease with a previous history of encephalopathy.
   - intracranial hemorrhage management as above
   - continue lactulose and rifaximin ([**2-12**] BM per day)
   - hold sedation as tolerated while intubated
   .
   #. EtOH History: out of window for withdrawal
   .
   #. ESLD: no viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is currently 31.  In records that has varices
   though unclear what or if esophageal.
   - cont lactulose and rifaximin
   - cont thiamine, folate, MVI
   - holding standing furosemide and spironolactone
   - MRCP to evaluate biliary tree in future
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per surgery are non-operative. Does
   not need cervical collar or log roll precautions.
   - no further management needed
   .
   #. Shallow Toe Ulcer: No signs of current infection. Likely related to
   known PVD. Swabbed on [**11-15**].
   - local wound care
   - f/u swab/culture
   - podiatry c/s
   - x-ray foot today
   .
   # FEN: No IVF
s for now (as goal diuresis today) / replete lytes prn /
   NGT tube in place, (restart tube feeds at low rate; nutrition c/s),
   ISS.
    # PPX: PPI IV BID for now assuming there are varices/gastritis, boots,
   but no heparin d/t thrombocytopenia, bowel regimen
   # ACCESS: PIV
   # CODE: Full code.
   .
   # CONTACT: [**Name (NI) 83**] formal HCP. Brother has been signing consents. [**Name (NI) 2255**]
   (brother) [**Telephone/Fax (1) 9357**]. Other family numbers: [**Name (NI) 1515**] (mother) [**Telephone/Fax (1) 9642**], and [**Telephone/Fax (1) 9359**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**] [**Telephone/Fax (1) 9341**] has been
   main decision maker. GF was on the way to getting HCP status when
   recent fall happened.  Brother aware of intubation on [**11-13**].
   .
   # DISPO: ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2156-11-15**] 05:30 PM 67 mL/hour
   Lines:
   PICC Line - [**2156-11-12**] 09:26 AM
   Arterial Line - [**2156-11-14**] 12:00 AM
   18 Gauge - [**2156-11-15**] 12:00 AM
   Code status: Full code

2156-11-16 12:30:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Intracranial hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Now on PSV 10/10 and doing well.
   24 Hour Events:
 PAN CULTURE - At [**2156-11-15**] 09:32 PM
 FEVER - 102.9
F - [**2156-11-15**] 08:00 PM
   History obtained from Medical records, icu  team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2156-11-15**] 12:00 AM
   Vancomycin - [**2156-11-16**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2156-11-16**] 11:52 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-11-16**] 08:10 AM
   Midazolam (Versed) - [**2156-11-16**] 09:52 AM
   Fentanyl - [**2156-11-16**] 09:52 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-11-16**] 12:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 38.6
C (101.5
   HR: 94 (85 - 101) bpm
   BP: 127/66(87) {118/57(78) - 168/76(105)} mmHg
   RR: 15 (15 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.9 kg (admission): 80.8 kg
   Height: 72 Inch
           Total In:
                                                                  3,497 mL
                                                                  1,643 mL
   PO:
           TF:
   IVF:
                                                                  1,447 mL
                                                                    583 mL
   Blood products:
                                                                  1,615 mL
                                                                    146 mL
   Total out:
                                                                  1,676 mL
                                                                    655 mL
   Urine:
                                                                  1,176 mL
                                                                    555 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  1,821 mL
                                                                    988 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 571 (571 - 571) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 21 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: 7.42/45/106/29/3
   Ve: 8.6 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, pupillary exam [**Name8 (MD) 24**] RN - pt shuts eyes tight
   on attempts to visualize
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered, otherwise clear)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, R great toe dorsal eschar with some leaking of sersang
   material
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   53 K/uL
   156 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.9 mEq/L
   25 mg/dL
   119 mEq/L
   154 mEq/L
   24.8 %
   3.9 K/uL
        [image002.jpg]
                             [**2156-11-14**]  08:53 PM
                             [**2156-11-15**]  02:08 AM
                             [**2156-11-15**]  02:40 AM
                             [**2156-11-15**]  10:45 AM
                             [**2156-11-15**]  11:09 AM
                             [**2156-11-15**]  04:57 PM
                             [**2156-11-15**]  05:35 PM
                             [**2156-11-16**]  02:50 AM
                             [**2156-11-16**]  02:59 AM
                             [**2156-11-16**]  11:40 AM
   WBC
   4.3
   4.8
   3.9
   Hct
   25.2
   24.6
   24.8
   Plt
   62
   80
   79
   53
   Cr
   0.6
   0.8
   0.9
   TCO2
   31
   32
   30
   32
   32
   30
   Glucose
   117
   108
   159
   156
   Other labs: PT / PTT / INR:21.2/41.4/2.0, ALT / AST:23/43, Alk Phos / T
   Bili:169/17.9, Differential-Neuts:79.8 %, Band:0.0 %, Lymph:11.8 %,
   Mono:5.9 %, Eos:2.3 %, Fibrinogen:103 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:3.5 g/dL, LDH:332 IU/L, Ca++:9.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   47 yo man with cirrhosis in MICU with intracranial hemorrhage.
   Acute respiratory failure  - Cont vanc/zosyn for aspiration pna.
   Reamains febrile.
   Intracranial hemmorhage: Neurosurg following.  Repeat CT head today.
   If stable, would hold on further FFP, plts transfusion
   Fevers: Abd U/S for ascites. Paracentesis if present.  Will ask
   podiatry to see him and get foot xray
   Coagulopathy:  FFP transfusion decision as above
   ESLD:  lactulose plus rifaxamin
   Transverse process fracture: non-operative
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2156-11-16**] 08:22 AM 67 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-12**] 09:26 AM
   Arterial Line - [**2156-11-14**] 12:00 AM
   18 Gauge - [**2156-11-15**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2156-11-17 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.9
F - [**2156-11-16**] 08:00 AM
   TF's started in evening
   Abd U/S: IMPRESSION: Bilateral pleural effusion, but no ascites
   identified.
   CT head wet read: No change in right frontal ICH w/ intraventricular
   extent, 2 mm left shift of midline structures, right parafalcine SDH,
   or left convexity extra-axial collection.
   Foot x-ray: pending
   Podiatry c/s:
   47 yo male with ESLD [**1-12**] ETOH re-admitted to
   MICU after fall with new head bleed with hallux ulceration.
   Dorsal ulceration is shallow and fibrotic in nature.  No drainage
   able to be expressed under pressure.  There is no erythema
   peri-wound, but there is proximal streaking along the medial
   arch.  There is no fluctulance to indicate an underlying abscess.
   His pulses are not palpable likely secondary to +2 pitting edema,
   but he has biphasic dopplar on exam.  While there is mild
   cellulitis, the antibiotics that he is on should adequately cover
   his infection.
   -F/U Wcx
   -F/U Xrays
   -Wet to dry dsg changes
   -Will staff
   Given PM set of lasix 80 and spironolactone 200 to try to optimize
   volume status if considering extubation
   -want to check with neurosurg and hepatology re: parameters for cbc,
   coags, etc.
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2156-11-15**] 12:00 AM
   Vancomycin - [**2156-11-16**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2156-11-17**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-11-16**] 08:00 PM
   Furosemide (Lasix) - [**2156-11-16**] 08:41 PM
   Midazolam (Versed) - [**2156-11-17**] 05:11 AM
   Fentanyl - [**2156-11-17**] 05:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-17**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.6
C (99.6
   HR: 84 (84 - 101) bpm
   BP: 124/63(85) {114/54(73) - 153/72(97)} mmHg
   RR: 12 (11 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.6 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  2,918 mL
                                                                    486 mL
   PO:
             TF:
                                                                     24 mL
                                                                     94 mL
   IVF:
                                                                  1,010 mL
                                                                    272 mL
   Blood products:
                                                                    703 mL
   Total out:
                                                                  3,035 mL
                                                                    710 mL
   Urine:
                                                                  2,935 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -117 mL
                                                                   -224 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 643 (523 - 643) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 18 cmH2O
   Plateau: 21 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: 7.43/49/135/30/7
   Ve: 6.3 L/min
   PaO2 / FiO2: 338
   Physical Examination
   GEN: NAD, sedated.
   Cv: RRR, no m/r/g
   PULM: Relatively clear b/l, with mild rales
   ABD: soft, nt, nd, +BS
   EXTR: 1+ edema b/l. bandage in place over toe.
   SKIN: stable bruising and swelling of face, in particular lips and
   periorbital
   Labs / Radiology
   51 K/uL
   7.9 g/dL
   116 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.7 mEq/L
   30 mg/dL
   116 mEq/L
   154 mEq/L
   24.1 %
   4.6 K/uL
        [image002.jpg]
                             [**2156-11-15**]  10:45 AM
                             [**2156-11-15**]  11:09 AM
                             [**2156-11-15**]  04:57 PM
                             [**2156-11-15**]  05:35 PM
                             [**2156-11-16**]  02:50 AM
                             [**2156-11-16**]  02:59 AM
                             [**2156-11-16**]  11:40 AM
                             [**2156-11-16**]  02:51 PM
                             [**2156-11-17**]  01:45 AM
                             [**2156-11-17**]  01:49 AM
   WBC
   4.8
   3.9
   4.2
   4.6
   Hct
   24.6
   24.8
   25.9
   24.1
   Plt
   80
   79
   53
   60
   51
   Cr
   0.8
   0.9
   1.0
   1.0
   TCO2
   30
   32
   32
   30
   34
   Glucose
   108
   159
   156
   111
   115
   116
   Other labs: PT / PTT / INR:23.0/43.4/2.2, ALT / AST:25/47, Alk Phos / T
   Bili:176/17.6, Amylase / Lipase:/21, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:109 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:3.5 g/dL, LDH:342 IU/L, Ca++:9.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   ASSESSMENT & PLAN: 46M with ESLD c/b ascites, varices and
   encephalopathy; course complicated by intraparenchymal bleed,
   pneumonia, encephalopathy.
   .
   #. Head Bleed s/p Fall: In setting of liver disease-related
   coagulopathy.  Intraparenchymal hemorrhage worse now following fall
   with evidence of expansion on repeat CT.  Also with new SDH.  Will
   likely need intervention once coagulopathy corrected.  Has received
   already multiple units of FFP, PRBC and plts.
   - f/u final read of yesterday
s head CT (was stable on wet read)
   - Change from Q2 to Q4 hour neuro checks
   - cont phenytoin for seizure prophylaxis, f/u AM level and adjust for
   albumin
   - Given stable CT scan of head, will check with hepatology If ok to
   stop frequently checking and repleting coags, CBC, fibrinogen. Will not
   transfuse this morning with blood products given stability, and unclear
   goal/endpoint. F/u with both neurosurgery and hepatology.
   Previously:
   keep Hct >25
   plt >80
   INR <2.0
   fibrinogen > 100
   SBP < 160
   - f/u neurosurgery recs
   - hold mannitol; hold Posm & Na checks
   .
   # Respiratory distress: Intubated on [**11-13**] due to respiratory fatigue,
   tachypnea, SpO2 in high 80s on 100% face mask. Believed due to volume
   overload/CHF versus TRALI versus aspiration. Tolerating vent well now,
   with good ABG
   - Continue antibiotics for potential aspiration, with vanc/zosyn
   - Give 80 lasix and 100 spironolactone this morning; goal -500cc, to
   prime for potential extubation
   - Wean down pressure support even more, then SBT this morning; pending
   results and ability to wean, consider extubation attempt later today
   # Fevers:  Most likely aspiration, given aspiration and subsequent
   development of fevers.  Given one dose Unasyn, then Vancomycin x1
   dose.  However, also r/o SBP with US looking for ascites, per Liver
   recs
 ultrasound negative for ascites.
   - Vanc/Zosyn to cover for aspiration pneumonia, given patient
   aspiration and subsequent fevers
   - Trend fever curve
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission.
   - Hold on daily fibrinogen checks, not repleting coags and fibrinogen
   for now; will follow-up this issue with hepatology today.
   Previously: Daily Hct, plt, coag, fibrinogen checks:
   - Goal fibrinogen >100; replete with cryoprecipitate as needed
   - Goal INR <2; replete with FFP as needed
   - Goal platelets >80; replete with platelets as needed
   - Goal Hct 25; replete with pRBC as needed
   .
   #. Altered mental status: secondary to intraparenchymal hemorrhage, and
   hepatic encephalopathy. The patient has known decompensated liver
   disease with a previous history of encephalopathy.
   - intracranial hemorrhage management as above
   - continue lactulose and rifaximin ([**2-12**] BM per day) [he is having BM
   - hold sedation as tolerated while intubated
   .
   #. EtOH History: out of window for withdrawal
   .
   #. ESLD: no viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is currently 31.  In records that has varices
   though unclear what or if esophageal.
   - f/u hepatology recs
   - cont lactulose and rifaximin
   - cont thiamine, folate, MVI
   - hold standing furosemide and spironolactone
   - MRCP to evaluate biliary tree in future
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per surgery are non-operative. Does
   not need cervical collar or log roll precautions.
   - no further management needed
   .
   #. Shallow Toe Ulcer: No signs of current infection. Likely related to
   known PVD. Swabbed on [**11-15**].
   - f/u podiatry recs
   - f/u swab micro/culture
   - f/u read of foot x-ray
   .
   # FEN: No IVF
s for now (goal diuresis) / replete lytes prn / NGT tube
   in place, (restarted tube feeds [**11-16**] at low rate; s/p nutrition c/s;
   hold TF
s for now as potential extubation), ISS (increase doses this AM
   for improved coverage). No TPN d/t ESLD.
    # PPX: PPI IV BID for now assuming there are varices/gastritis,
   pneumoboots, but no heparin d/t thrombocytopenia, bowel regimen as
   above.
   # CODE: Full code.
   .
   # CONTACT: [**Name (NI) 83**] formal HCP. Brother has been signing consents. [**Name (NI) 2255**]
   (brother) [**Telephone/Fax (1) 9357**]. Other family numbers: [**Name (NI) 1515**] (mother) [**Telephone/Fax (1) 9642**], and [**Telephone/Fax (1) 9359**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**] [**Telephone/Fax (1) 9341**] has been
   main decision maker. GF was on the way to getting HCP status when
   recent fall happened.  Brother aware of intubation on [**11-13**].
   .
   # DISPO: ICU for now while intubated; perhaps to floor s/p extubation?
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2156-11-16**] 09:37 PM 20 mL/hour
 on hold for now as
   plan for potential extubation.
   Lines:
   PICC Line - [**2156-11-12**] 09:26 AM
   Arterial Line - [**2156-11-14**] 12:00 AM
   18 Gauge - [**2156-11-15**] 12:00 AM
   Code status: Full code

2156-11-17 13:23:00 Physician Attending Progress Note
Chief Complaint: Intracranial hemorrhage, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   CT head yesterday - preliminarily stable
   24 Hour Events:
 FEVER - 101.9
F - [**2156-11-16**] 08:00 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2156-11-15**] 12:00 AM
   Vancomycin - [**2156-11-17**] 08:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2156-11-17**] 11:47 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-11-16**] 08:00 PM
   Midazolam (Versed) - [**2156-11-17**] 05:11 AM
   Fentanyl - [**2156-11-17**] 05:11 AM
   Furosemide (Lasix) - [**2156-11-17**] 10:40 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Heme / Lymph: Coagulopathy
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-11-17**] 01:22 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.5
C (99.5
   HR: 109 (84 - 109) bpm
   BP: 172/80(109) {114/54(73) - 172/80(109)} mmHg
   RR: 21 (11 - 21) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.6 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  2,918 mL
                                                                  1,059 mL
   PO:
             TF:
                                                                     24 mL
                                                                    158 mL
   IVF:
                                                                  1,010 mL
                                                                    630 mL
   Blood products:
                                                                    703 mL
   Total out:
                                                                  3,035 mL
                                                                  1,560 mL
   Urine:
                                                                  2,935 mL
                                                                  1,560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -117 mL
                                                                   -501 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 455 (455 - 643) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 18 cmH2O
   SpO2: 93%
   ABG: 7.42/51/76.[**Numeric Identifier 433**]/30/6
   Ve: 8.9 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, facial ecchymoses
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   51 K/uL
   116 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.7 mEq/L
   30 mg/dL
   116 mEq/L
   154 mEq/L
   24.1 %
   4.6 K/uL
        [image002.jpg]
                             [**2156-11-15**]  11:09 AM
                             [**2156-11-15**]  04:57 PM
                             [**2156-11-15**]  05:35 PM
                             [**2156-11-16**]  02:50 AM
                             [**2156-11-16**]  02:59 AM
                             [**2156-11-16**]  11:40 AM
                             [**2156-11-16**]  02:51 PM
                             [**2156-11-17**]  01:45 AM
                             [**2156-11-17**]  01:49 AM
                             [**2156-11-17**]  11:39 AM
   WBC
   4.8
   3.9
   4.2
   4.6
   Hct
   24.6
   24.8
   25.9
   24.1
   Plt
   79
   53
   60
   51
   Cr
   0.8
   0.9
   1.0
   1.0
   TCO2
   30
   32
   32
   30
   34
   34
   Glucose
   108
   159
   156
   111
   115
   116
   Other labs: PT / PTT / INR:23.0/43.4/2.2, ALT / AST:25/47, Alk Phos / T
   Bili:176/17.6, Amylase / Lipase:/21, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:109 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:3.5 g/dL, LDH:342 IU/L, Ca++:9.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   47 yo man with cirrhosis in MICU with intracranial hemorrhage.
   Acute respiratory failure  - Cont vanc/zosyn for aspiration pna.
   Ongoing fevers.  Mechanics/SBT shw suitablity for extubation - will
   attempt today
   Intracranial hemmorhage: Head CT stable.  Holding FFP, platelet
   transfusion for now
   Fevers: No ascites on abd u/s.  Exam of foot lesion by podiatry not c/w
   abcess
 appreciate their input.
   ESLD:  lactulose plus rifaxamin
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-12**] 09:26 AM
   Arterial Line - [**2156-11-14**] 12:00 AM
   18 Gauge - [**2156-11-15**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2156-11-18 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2156-11-17**] 02:59 PM
   - pt extubated this evening. O2sat > 95% on shovel face mask. alert and
   talking.
   - diuresed with Lasix 160/Spironolactone 4000 with good UOP. negative
   --L for 24hours.
 FEVER - 101.4
F - [**2156-11-18**] 06:00 AM
   - trasfused 1U FFP per liver recs.
   - phenytoin 14.7, albumin 3.5, for corrected phenytoin level of 18.4 in
   the therapeutic range (10 and 20).
   - podiatry signed off, pt should f/u w. podiatry clinic as an out-ot.
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Vancomycin - [**2156-11-17**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2156-11-18**] 03:10 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2156-11-17**] 04:00 PM
   Pantoprazole (Protonix) - [**2156-11-17**] 09:00 PM
   Furosemide (Lasix) - [**2156-11-18**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-18**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 102 (84 - 109) bpm
   BP: 140/57(82) {118/50(73) - 172/80(109)} mmHg
   RR: 21 (11 - 22) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.1 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  2,166 mL
                                                                    630 mL
   PO:
             TF:
                                                                    448 mL
                                                                    364 mL
   IVF:
                                                                  1,050 mL
                                                                    176 mL
   Blood products:
                                                                    308 mL
   Total out:
                                                                  3,490 mL
                                                                  2,200 mL
   Urine:
                                                                  3,340 mL
                                                                  2,200 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                 -1,324 mL
                                                                 -1,570 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 455 (455 - 606) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 100%
   SpO2: 95%
   ABG: 7.43/50/80.[**Numeric Identifier 500**]/35/7
   Ve: 8.9 L/min
   PaO2 / FiO2: 80
   Physical Examination
   GEN: Responsive and obeying commands, NAD.
   Cv: RRR, no m/r/g
   PULM: Rhonchi bilaterally
   ABD: soft, nt, nd, +BS
   EXTR: 2+ edema b/l with L>R. bandage in place over R toe.
   SKIN: stable bruising and swelling of face, in particular lips and
   periorbital
   Labs / Radiology
   37 K/uL
   8.0 g/dL
   136 mg/dL
   1.0 mg/dL
   35 mEq/L
   3.5 mEq/L
   32 mg/dL
   114 mEq/L
   154 mEq/L
   25.8 %
   5.4 K/uL
        [image002.jpg]
                             [**2156-11-16**]  02:59 AM
                             [**2156-11-16**]  11:40 AM
                             [**2156-11-16**]  02:51 PM
                             [**2156-11-17**]  01:45 AM
                             [**2156-11-17**]  01:49 AM
                             [**2156-11-17**]  11:39 AM
                             [**2156-11-17**]  01:28 PM
                             [**2156-11-17**]  05:48 PM
                            [**2156-11-18**]  02:21 AM
                            [**2156-11-18**]  02:35 AM
   WBC
   4.2
   4.6
   5.4
   Hct
   25.9
   24.1
   25.8
   Plt
   60
   51
   37
   Cr
   1.0
   1.0
   1.0
   1.0
   TCO2
   32
   30
   34
   34
   34
   34
   Glucose
   156
   111
   115
   116
   132
   136
   Other labs: PT / PTT / INR:22.3/43.5/2.1, ALT / AST:28/54, Alk Phos / T
   Bili:185/17.3, Amylase / Lipase:/21, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:109 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:3.6 g/dL, LDH:354 IU/L, Ca++:10.0
   mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Microbiology: [**2156-11-15**] 8:56 pm SPUTUM      Source: Endotracheal.
                               **FINAL REPORT [**2156-11-17**]**
      GRAM STAIN (Final [**2156-11-16**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2156-11-17**]):
         Commensal Respiratory Flora Absent.
         ENTEROBACTER CLOACAE.    SPARSE GROWTH.
            IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE #
   286-9026O
            [**2156-11-14**].
         YEAST.    SPARSE GROWTH.
                               ENTEROBACTER CLOACAE
                                |
   CEFEPIME--------------   <=1 S
   CEFTAZIDIME-----------   <=1 S
   CEFTRIAXONE-----------   <=1 S
   CIPROFLOXACIN---------<=0.25 S
   GENTAMICIN------------   <=1 S
   MEROPENEM-------------<=0.25 S
   PIPERACILLIN/TAZO-----    16 S
   TOBRAMYCIN------------   <=1 S
   TRIMETHOPRIM/SULFA----   <=1 S
   [**11-16**] swab - coag  negative staph
   [**11-15**] ucx neg
   [**11-15**] bcx neg
   [**11-15**] stool cx neg'
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   46M with ESLD c/b ascites, varices and encephalopathy; course
   complicated by intraparenchymal bleed, pneumonia, encephalopathy.
   .
   #. Head Bleed s/p Fall: In setting of liver disease-related
   coagulopathy.  Intraparenchymal hemorrhage worse now following fall
   with evidence of expansion on repeat CT.  Also with new SDH.  Will
   likely need intervention once coagulopathy corrected.  Has received
   already multiple units of FFP, PRBC and plts.  Head CTs have shown
   increased bleed but stable midline shift, neurosurgery is deferring
   surgical intervention if no increase of midline shift.  Given stable CT
   scan of head, will stop frequently checking and repleting coags, CBC,
   fibrinogen, will also stop frequent Posm and Na checks and hold
   mannitol.
   - f/u neurosurgery recs
   - Cont phenytoin for seizure prophylaxis, f/u AM level and adjust for
   albumin
   - Q4 hour neuro checks
   - F/u with both neurosurgery and hepatology.
   .
   Previously:
   keep Hct >25
   plt >80
   INR <2.0
   fibrinogen > 100
   SBP < 160
   # Fevers:  Most likely aspiration, given aspiration and subsequent
   development of fevers.  Given one dose Unasyn, then Vancomycin x1
   dose.  However, also r/o SBP with US looking for ascites, per Liver
   recs
 ultrasound negative for ascites.  Sputum culture growing
   Enterobacter Cloacae which is pan-sensitive.
   - Vanc/Zosyn to cover for aspiration pneumonia for 7 day course, given
   patient
s aspiration and subsequent fevers, then will re-assess at that
   time for need for continued course
   .
   #. Altered mental status: secondary to intraparenchymal hemorrhage, and
   hepatic encephalopathy. The patient has known decompensated liver
   disease with a previous history of encephalopathy.
   - intracranial hemorrhage management as above
   - continue lactulose and rifaximin ([**2-12**] BM per day) [he is having BM
   - hold sedation as tolerated while intubated
   .
   Less active/resolved problems:
   .
   #. Shallow Toe Ulcer: No signs of current infection. Likely related to
   known PVD. Swabbed on [**11-15**].
   - Podiatry signed off
   - f/u swab micro/culture; showing coag negative staph
   - f/u read of foot x-ray
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission.  Now
   holding off on repleting coagulation factors and blood products given
   stable over several days.
   - Hold on daily fibrinogen checks, not repleting coags and fibrinogen
   for now; will follow-up this issue with hepatology today.
   Previously: Daily Hct, plt, coag, fibrinogen checks:
   - Goal fibrinogen >100; replete with cryoprecipitate as needed
   - Goal INR <2; replete with FFP as needed
   - Goal platelets >80; replete with platelets as needed
   - Goal Hct 25; replete with pRBC as needed
   .
   #. ESLD: no viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is currently 31.  In records that has varices
   though unclear what or if esophageal.
   - f/u hepatology recs
   - cont lactulose and rifaximin
   - cont thiamine, folate, MVI
   - hold standing furosemide and spironolactone
   - MRCP to evaluate biliary tree in future
   - trend MELD scores
   .
   # Respiratory distress: Intubated on [**11-13**] due to respiratory fatigue,
   tachypnea, SpO2 in high 80s on 100% face mask. Believed due to volume
   overload/CHF versus TRALI versus aspiration. Tolerating vent well now,
   with good ABG
s.  Given 80 lasix and 100 spironolactone this morning;
   goal -500cc, to prime for potential extubation.  Extubated [**11-17**] with
   stable respiratory status.
   - Continue antibiotics for potential aspiration, with vanc/zosyn
   .
   #. EtOH History: out of window for withdrawal
   .
   #. Transverse Process Fractures: Per surgery are non-operative. Does
   not need cervical collar or log roll precautions.
   - no further management needed
   .
   # FEN: No IVF
s for now (goal diuresis) / replete lytes prn / NGT tube
   in place, (restarted tube feeds [**11-16**] at low rate; s/p nutrition c/s;
   hold TF
s for now as potential extubation), ISS (increase doses this AM
   for improved coverage). No TPN d/t ESLD.
    # PPX: PPI IV BID for now assuming there are varices/gastritis,
   pneumoboots, but no heparin d/t thrombocytopenia, bowel regimen as
   above.
   # CODE: Full code.
   .
   # CONTACT: [**Name (NI) 83**] formal HCP. Brother has been signing consents. [**Name (NI) 2255**]
   (brother) [**Telephone/Fax (1) 9357**]. Other family numbers: [**Name (NI) 1515**] (mother) [**Telephone/Fax (1) 9642**], and [**Telephone/Fax (1) 9359**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**] [**Telephone/Fax (1) 9341**] has been
   main decision maker. GF was on the way to getting HCP status when
   recent fall happened.  Brother aware of intubation on [**11-13**].
   .
   # DISPO: Call out to floor
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2156-11-16**] 09:37 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-12**] 09:26 AM
   Arterial Line - [**2156-11-14**] 12:00 AM
   18 Gauge - [**2156-11-15**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-11-18 09:03:00 Physician Attending Progress Note
Chief Complaint: Intracranial hemorrhage, Hepatic encephalopthy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No events overnight
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2156-11-17**] 02:59 PM
 FEVER - 101.4
F - [**2156-11-18**] 06:00 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-11-18**] 03:10 AM
   Vancomycin - [**2156-11-18**] 08:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2156-11-17**] 04:00 PM
   Furosemide (Lasix) - [**2156-11-18**] 01:45 AM
   Pantoprazole (Protonix) - [**2156-11-18**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: No(t) Tachypnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-11-18**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.3
C (101
   HR: 101 (84 - 109) bpm
   BP: 134/57(81) {118/50(73) - 172/80(109)} mmHg
   RR: 20 (11 - 22) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.1 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  2,166 mL
                                                                  1,020 mL
   PO:
             TF:
                                                                    448 mL
                                                                    441 mL
   IVF:
                                                                  1,050 mL
                                                                    399 mL
   Blood products:
                                                                    308 mL
   Total out:
                                                                  3,490 mL
                                                                  2,400 mL
   Urine:
                                                                  3,340 mL
                                                                  2,400 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                 -1,324 mL
                                                                 -1,379 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 455 (455 - 606) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 100%
   SpO2: 97%
   ABG: 7.43/50/80.[**Numeric Identifier 500**]/35/7
   Ve: 8.9 L/min
   PaO2 / FiO2: 80
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, facial ecchymoses
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, did
   follow commands this am for intern
   Labs / Radiology
   8.0 g/dL
   37 K/uL
   136 mg/dL
   1.0 mg/dL
   35 mEq/L
   3.5 mEq/L
   32 mg/dL
   114 mEq/L
   154 mEq/L
   25.8 %
   5.4 K/uL
        [image002.jpg]
                             [**2156-11-16**]  02:59 AM
                             [**2156-11-16**]  11:40 AM
                             [**2156-11-16**]  02:51 PM
                             [**2156-11-17**]  01:45 AM
                             [**2156-11-17**]  01:49 AM
                             [**2156-11-17**]  11:39 AM
                             [**2156-11-17**]  01:28 PM
                             [**2156-11-17**]  05:48 PM
                            [**2156-11-18**]  02:21 AM
                            [**2156-11-18**]  02:35 AM
   WBC
   4.2
   4.6
   5.4
   Hct
   25.9
   24.1
   25.8
   Plt
   60
   51
   37
   Cr
   1.0
   1.0
   1.0
   1.0
   TCO2
   32
   30
   34
   34
   34
   34
   Glucose
   156
   111
   115
   116
   132
   136
   Other labs: PT / PTT / INR:22.3/43.5/2.1, ALT / AST:28/54, Alk Phos / T
   Bili:185/17.3, Amylase / Lipase:/21, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:109 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:3.6 g/dL, LDH:354 IU/L, Ca++:10.0
   mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   47 yo man with cirrhosis in MICU with intracranial hemorrhage.
   Acute respiratory failure  - Extubated yesterday and doing well.  Cont
   vanc/zosyn for aspiration pna.  Ongoing fevers.
   Intracranial hemmorhage: Head CT stable - last 2 days ago.  Moniotor
   INR and platelets.
   Fevers: No identified source.  Cont vanc/zosyn.
   ESLD:  lactulose plus rifaxamin
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2156-11-16**] 09:37 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-12**] 09:26 AM
   Arterial Line - [**2156-11-14**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: